US06043366
8-Cyclodecyl-3-ethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m.p. 197° C. (dec.) and MS: m/e=398.4 M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and ethyliodide.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | ethyliodide | C(C)I | C2H5I
product | 8-Cyclodecyl-3-ethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC)=O)CC1 | InChI=1S/C25H39N3O.ClH/c1-2-26-21-28(23-15-11-8-12-16-23)25(24(26)29)17-19-27(20-18-25)22-13-9-6-4-3-5-7-10-14-22;/h8,11-12,15-16,22H,2-7,9-10,13-14,17-21H2,1H3;1H
